US04330539
Hydrolysis of 17α-amino-5α-androstane-3β,16α-diol 3-acetate (4.8 g) with sodium hydroxide (4 N) and ethanol at reflux temperature gave 17α-amino-5α-androstane-3β,16α-diol (3.4 g). Crystallisation from ethanol yielded an analytical sample, m.p. 220°-225° C.

reactant | 17α-amino-5α-androstane-3β,16α-diol 3-acetate | 4.8 g | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]([C@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)N)O | C21H35NO3
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 17α-amino-5α-androstane-3β,16α-diol | 3.4 g | N[C@H]1[C@]2(C)[C@@H](C[C@H]1O)[C@@H]1CC[C@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C19H33NO2
